US05476933
Preparation of 3-Hydroxy-7,8-dimethyl-1-benzazepine-2,5-dione (46).
To a stirred suspension of 3-methoxy-7,8-dimethyl-1H-1-benzazepine-2,5-dione (270 mg, 1.17 mmol) in dry CH2CH2 (2.7 mL, distilled from CaH2) under N2, there was added a solution of BBr3 in CH2Cl2 (2.7 mL, 1M, Aldrich) in one portion over 20 seconds at rt. The reaction instantaneously became homogeneous and orange, then a brown precipitate formed after a few seconds. The reaction was allowed to stir under N2 at rt for 45 min. The reaction was added to saturated NaHCO3 (30 mL) and was allowed to stir for 15 min at rt to give a yellow suspension. The resulting suspension was acidified with concd HCl (pH 2), the acidic suspension stirred for 10 min at rt, the solid collected by filtration and washed to neutrality with water (6×4 mL). The damp filter cake was crystallized from 95% EtOH (dissolved in 550 mL, hot filtered, coned to 210 mL, allowed to cool to rt) to yield a fine yellow solid (195 mg, 77%, pure by TLC, 1H NMR and C,H,N analysis); mp 302°-304° C. (dec. EtOH) (lit 288° C. (dec) Birchall, G. R. et al. Can. J. Chem. 52:610-615 (1974)); 1H NMR (DMSO-d6) δ2.24 (d, 6H), 6.39 (s, 1H), 7.24 (s, 1H), 7.80 (s, 1H), 10.46 (s, 1H), 11.49 (s, 1H); Anal. Calcd for C12H11NO3 : C, 66.35; H, 5.10; N, 6.45. Found: C, 66.30; H, 4.88; N, 6.25.

reactant | 3-methoxy-7,8-dimethyl-1H-1-benzazepine-2,5-dione | 1.17 mmol, 270 mg | COC=1C(NC2=C(C(C1)=O)C=C(C(=C2)C)C)=O | C13H13NO3
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
reactant | HCl | pH 2 | Cl | ClH
solvent | CH2Cl2 | 1M, 2.7 mL | C(Cl)Cl | CH2Cl2
solvent | EtOH | CCO | C2H6O
product | 3-Hydroxy-7,8-dimethyl-1-benzazepine-2,5-dione | OC=1C(NC2=C(C(C1)=O)C=C(C(=C2)C)C)=O | C12H11NO3
